### PR TITLE
[Merged by Bors] - doc: add wikidata cross references

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kim-em** [comment]
**Manual test run of #39876 / #39877 — no action needed.** This is what the bot will post automatically on PRs like yours once #39876 (dump script), #39877 (CI workflow), and [mathlib-ci#44](https://github.com/leanprover-community/mathlib-ci/pull/44) (orchestrator) all land. Posted here because your PR is the first real exerciser of the wikidata code path. Generated by running `scripts/dump_crossref_tags.lean` on a local merge of #39877 + #39909, then feeding the TSV through `crossref-render` in [external-tags](https://github.com/leanprover-community/external-tags) with `--baseline-tsv` (to subtract pre-existing stacks/kerodon tags) and `--changed-files` (your 13 paths).

(Edited to pick up an `external-tags` fix: declaration names were being rendered with stray `\_` escapes because the renderer was applying full Markdown escaping to text already inside a `` ` `` code span.)

---


## Cross-reference review

This PR touches 14 cross-reference tags:

### Wikidata

| Tag | Title | Description | Declaration | Comment |
|---|---|---|---|---|
| [`Q193878`](https://www.wikidata.org/wiki/Q193878) | Chinese remainder theorem | theorem for solving simultaneous congruences | `Ideal.quotientInfRingEquivPiQuotient` |  |
| [`Q505798`](https://www.wikidata.org/wiki/Q505798) | Lagrange's theorem | group theory | `Subgroup.card_subgroup_dvd_card` |  |
| [`Q505798`](https://www.wikidata.org/wiki/Q505798) | Lagrange's theorem | group theory | `AddSubgroup.card_addSubgroup_dvd_card` |  |
| [`Q1052678`](https://www.wikidata.org/wiki/Q1052678) | Baire category theorem | theorem in topology and functional analysis | `dense_iInter_of_isOpen` |  |
| [`Q245098`](https://www.wikidata.org/wiki/Q245098) | intermediate value theorem | theorem | `intermediate_value_Icc` |  |
| [`Q253214`](https://www.wikidata.org/wiki/Q253214) | Heine–Borel theorem | theorem about compact sets in Euclidean space | `Metric.isCompact_iff_isClosed_bounded` |  |
| [`Q190546`](https://www.wikidata.org/wiki/Q190546) | Cauchy–Schwarz inequality | a useful inequality encountered in many different settings, such as linear algebra, analysis, probability theory, vector algebra and other areas. It is considered to be one of the most important inequalities in all of mathematics | `inner_mul_inner_self_le` |  |
| [`Q193286`](https://www.wikidata.org/wiki/Q193286) | Rolle's theorem | on stationary points between two equal values of a real differentiable function | `exists_deriv_eq_zero` |  |
| [`Q189136`](https://www.wikidata.org/wiki/Q189136) | mean value theorem | on the existence of a tangent to an arc parallel to the line through its endpoints | `exists_ratio_deriv_eq_ratio_slope` |  |
| [`Q866116`](https://www.wikidata.org/wiki/Q866116) | Hahn–Banach theorem | theorem on extension of bounded linear functionals | `exists_extension_norm_eq` |  |
| [`Q192760`](https://www.wikidata.org/wiki/Q192760) | fundamental theorem of algebra | Every polynomial has a real or complex root | `Complex.isAlgClosed` |  |
| [`Q939927`](https://www.wikidata.org/wiki/Q939927) | Stone–Weierstrass theorem | theorem that every continuous function on a compact Hausdorff space can be approximated by certain families of continuous functions | `ContinuousMap.subalgebra_topologicalClosure_eq_top_of_separatesPoints` |  |
| [`Q1816967`](https://www.wikidata.org/wiki/Q1816967) | Urysohn's lemma | lemma that a topological space is normal iff any 2 disjoint closed subsets can be separated by a continuous function | `exists_continuous_zero_one_of_isClosed` |  |
| [`Q220680`](https://www.wikidata.org/wiki/Q220680) | Banach fixed-point theorem | theorem about metric spaces | `ContractingWith.exists_fixedPoint` |  |

<sub>Posted by [external-tags](https://github.com/leanprover-community/external-tags). Snippets are fetched from upstream live. This check is **advisory**: the dump script runs from the PR checkout, so a PR can edit the producer to hide tags from this comment.</sub>

File: Mathlib/Topology/Baire/Lemmas.lean [hunk 1]
```diff
@@ -127,6 +128,7 @@ theorem dense_biInter_of_isOpen {S : Set α} {f : α → Set X} (ho : ∀ s ∈
 
 /-- Baire theorem: a countable intersection of dense open sets is dense. Formulated here with
 an index set which is a countable type. -/
+@[wikidata Q1052678]
```
Comment (jcommelin) [inline Mathlib/Topology/Baire/Lemmas.lean:131]: <a href="https://www.wikidata.org/wiki/Q1052678">Wikidata Q1052678</a>: <b>Baire category theorem</b> — theorem in topology and functional analysis

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 2]
```diff
@@ -318,6 +318,7 @@ then there exists a continuous function `f : X → ℝ` such that
 * `f` equals one on `t`;
 * `0 ≤ f x ≤ 1` for all `x`.
 -/
+@[wikidata Q1816967]
```
Comment (jcommelin) [inline Mathlib/Topology/UrysohnsLemma.lean:321]: <a href="https://www.wikidata.org/wiki/Q1816967">Wikidata Q1816967</a>: <b>Urysohn's lemma</b> — lemma that a topological space is normal iff any 2 disjoint closed subsets can be separated by a continuous function

File: Mathlib/Analysis/Calculus/Deriv/MeanValue.lean [hunk 3]
```diff
@@ -128,6 +128,7 @@ theorem exists_hasDerivAt_eq_slope : ∃ c ∈ Ioo a b, f' c = (f b - f a) / (b
 
 include hab hfc hgc hgd hfd in
 /-- Cauchy's Mean Value Theorem, `deriv` version. -/
+@[wikidata Q189136]
```
Comment (jcommelin) [inline Mathlib/Analysis/Calculus/Deriv/MeanValue.lean:131]: <a href="https://www.wikidata.org/wiki/Q189136">Wikidata Q189136</a>: <b>mean value theorem</b> — on the existence of a tangent to an arc parallel to the line through its endpoints

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 4]
```diff
@@ -278,6 +278,7 @@ theorem parallelogram_law {x y : E} : ⟪x + y, x + y⟫ + ⟪x - y, x - y⟫ =
   ring
 
 /-- **Cauchy–Schwarz inequality**. -/
+@[wikidata Q190546]
```
Comment (jcommelin) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:281]: <a href="https://www.wikidata.org/wiki/Q190546">Wikidata Q190546</a>: <b>Cauchy–Schwarz inequality</b> — a useful inequality encountered in many different settings, such as linear algebra, analysis, probability theory, vector algebra and other areas. It is considered to be one of the most important inequalities in all of mathematics

File: Mathlib/Analysis/Complex/Polynomial/Basic.lean [hunk 5]
```diff
@@ -47,6 +47,8 @@ theorem exists_root {f : ℂ[X]} (hf : 0 < degree f) : ∃ z : ℂ, IsRoot f z :
   obtain rfl : f = C 0 := Polynomial.funext fun z ↦ inv_injective <| by simp [this]
   simp at hf
 
+/-- **Fundamental theorem of algebra**: the field `ℂ` of complex numbers is algebraically closed. -/
+@[wikidata Q192760]
```
Comment (jcommelin) [inline Mathlib/Analysis/Complex/Polynomial/Basic.lean:51]: <a href="https://www.wikidata.org/wiki/Q192760">Wikidata Q192760</a>: <b>fundamental theorem of algebra</b> — Every polynomial has a real or complex root

File: Mathlib/Analysis/Calculus/LocalExtr/Rolle.lean [hunk 6]
```diff
@@ -55,6 +55,7 @@ theorem exists_hasDerivAt_eq_zero (hab : a < b) (hfc : ContinuousOn f (Icc a b))
   ⟨c, cmem, hc.hasDerivAt_eq_zero <| hff' c cmem⟩
 
 /-- **Rolle's Theorem** `deriv` version -/
+@[wikidata Q193286]
```
Comment (jcommelin) [inline Mathlib/Analysis/Calculus/LocalExtr/Rolle.lean:58]: <a href="https://www.wikidata.org/wiki/Q193286">Wikidata Q193286</a>: <b>Rolle's theorem</b> — on stationary points between two equal values of a real differentiable function

File: Mathlib/RingTheory/Ideal/Quotient/Operations.lean [hunk 7]
```diff
@@ -242,6 +242,7 @@ lemma quotientInfToPiQuotient_surj {I : ι → Ideal R}
 
 /-- **Chinese Remainder Theorem**. Eisenbud Ex.2.6.
 Similar to Atiyah-Macdonald 1.10 and Stacks 00DT -/
+@[wikidata Q193878]
```
Comment (jcommelin) [inline Mathlib/RingTheory/Ideal/Quotient/Operations.lean:245]: <a href="https://www.wikidata.org/wiki/Q193878">Wikidata Q193878</a>: <b>Chinese remainder theorem</b> — theorem for solving simultaneous congruences

File: Mathlib/Topology/MetricSpace/Contracting.lean [hunk 8]
```diff
@@ -91,6 +91,7 @@ We include more conclusions in this theorem to avoid proving them again later.
 
 The main API for this theorem are the functions `efixedPoint` and `fixedPoint`,
 and lemmas about these functions. -/
+@[wikidata Q220680]
```
Comment (jcommelin) [inline Mathlib/Topology/MetricSpace/Contracting.lean:94]: <a href="https://www.wikidata.org/wiki/Q220680">Wikidata Q220680</a>: <b>Banach fixed-point theorem</b> — theorem about metric spaces

File: Mathlib/Topology/Order/IntermediateValue.lean [hunk 9]
```diff
@@ -549,6 +549,7 @@ variable {δ : Type*} [LinearOrder δ] [TopologicalSpace δ] [OrderClosedTopolog
 
 /-- **Intermediate Value Theorem** for continuous functions on closed intervals, case
 `f a ≤ t ≤ f b`. -/
+@[wikidata Q245098]
```
Comment (jcommelin) [inline Mathlib/Topology/Order/IntermediateValue.lean:552]: <a href="https://www.wikidata.org/wiki/Q245098">Wikidata Q245098</a>: <b>intermediate value theorem</b> — theorem

File: Mathlib/Topology/MetricSpace/Bounded.lean [hunk 10]
```diff
@@ -332,6 +332,7 @@ theorem _root_.Bornology.IsBounded.isCompact_closure [ProperSpace α] (h : IsBou
 -- TODO: assume `[MetricSpace α]` instead of `[PseudoMetricSpace α] [T2Space α]`
 /-- The **Heine–Borel theorem**:
 In a proper Hausdorff space, a set is compact if and only if it is closed and bounded. -/
+@[wikidata Q253214]
```
Comment (jcommelin) [inline Mathlib/Topology/MetricSpace/Bounded.lean:335]: <a href="https://www.wikidata.org/wiki/Q253214">Wikidata Q253214</a>: <b>Heine–Borel theorem</b> — theorem about compact sets in Euclidean space

File: Mathlib/GroupTheory/Coset/Card.lean [hunk 11]
```diff
@@ -64,8 +64,8 @@ lemma card_mul_eq_card_subgroup_mul_card_quotient (s : Subgroup α) (t : Set α)
   aesop (add simp [Set.mem_mul])
 
 /-- **Lagrange's Theorem**: The order of a subgroup divides the order of its ambient group. -/
-@[to_additive /-- **Lagrange's Theorem**: The order of an additive subgroup divides the order of its
-ambient additive group. -/]
+@[to_additive (attr := wikidata Q505798) /-- **Lagrange's Theorem**: The order of an additive
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coset/Card.lean:67]: <a href="https://www.wikidata.org/wiki/Q505798">Wikidata Q505798</a>: <b>Lagrange's theorem</b> — group theory

File: Mathlib/Analysis/Normed/Module/HahnBanach.lean [hunk 12]
```diff
@@ -72,6 +72,7 @@ variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] [IsRCLikeNormedField 𝕜
 
 /-- **Hahn-Banach theorem** for continuous linear functions over `𝕜`
 satisfying `IsRCLikeNormedField 𝕜`. -/
+@[wikidata Q866116]
```
Comment (jcommelin) [inline Mathlib/Analysis/Normed/Module/HahnBanach.lean:75]: <a href="https://www.wikidata.org/wiki/Q866116">Wikidata Q866116</a>: <b>Hahn–Banach theorem</b> — theorem on extension of bounded linear functionals

File: Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean [hunk 13]
```diff
@@ -262,6 +262,7 @@ theorem sublattice_closure_eq_top (L : Set C(X, ℝ)) (nA : L.Nonempty)
 that a subalgebra `A` of `C(X, ℝ)`, where `X` is a compact topological space,
 is dense if it separates points.
 -/
+@[wikidata Q939927]
```
Comment (jcommelin) [inline Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean:265]: <a href="https://www.wikidata.org/wiki/Q939927">Wikidata Q939927</a>: <b>Stone–Weierstrass theorem</b> — theorem that every continuous function on a compact Hausdorff space can be approximated by certain families of continuous functions

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean:281]: Can we have multiple instances of a single tag? If so I'd advocate also linking to this from [LinearMap.BilinForm.apply_mul_apply_le_of_forall_zero_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/SesquilinearForm/Basic.html#LinearMap.BilinForm.apply_mul_apply_le_of_forall_zero_le).

**Review by ocfnash — APPROVED** [review]
One suggestion. Otherwise LGTM.

bors d+
